US05324710
62.6 g of methyl 6-methoxy-2-methylpyrimidine-4-carboxylate are added to a stirred solution of 14.4 g of sodium hydroxide in 100 ml of water and 350 ml of methanol and stirring is continued until hydrolysis is complete (TLC checking). 200 ml of methanol are added to the reaction mixture, and the sodium salt is filtered off with suction and then washed with methanol/diethyl ether (1:1) on the suction filter. The filter residue (59.3 g; melting point above 265° C.) dried in vacuo at 50° C. is introduced in portions into a solution of 24.5 g of acetyl chloride in 300 ml of methanol. The mixture is then stirred at room temperature for 1/2 h, the solid is filtered off with suction and the filter residue is then washed with abs. methanol. The filtrate is concentrated in vacuo on a rotary evaporator and the residue is dried at high vacuum. 25.1 g of 6-methoxy-2-methylpyrimidine-4-carboxylic acid of melting point 184°-188° C. (dec.) are obtained in this way.

reactant | methyl 6-methoxy-2-methylpyrimidine-4-carboxylate | 62.6 g | COC1=CC(=NC(=N1)C)C(=O)OC | C8H10N2O3
reactant | sodium hydroxide | 14.4 g | [OH-].[Na+]
solvent | water | 100 ml | O | H2O
solvent | methanol | 350 ml | CO | CH4O
solvent | methanol | 200 ml | CO | CH4O
product | 6-methoxy-2-methylpyrimidine-4-carboxylic acid | 25.1 g | COC1=CC(=NC(=N1)C)C(=O)O | C7H8N2O3
